US06562807B2
5-Amino-2-cyanobenzotrifluoride (0.07 g, 0.36 mmol) was dissolved in ethyl acetate (2 mL) and dry hydrogen chloride in ethyl acetate (3.5 M, 5.5 mL) was added. After 15 min the solution was concentrated to dryness and co-evaporated three times from toluene (3×5 mL). The residue was added toluene (2.5 mL) and flushed with nitrogen for about 10 min, before diphosgene (0.43 mL) was added. Then the mixture was gently refluxed for 1 hour under a nitrogen atmosphere. The mixture was cooled and concentrated to dryness in vacuo and then co-evaporated twice from toluene to remove excessive diphosgene to afford 4-cyano-3-trifluoromethylphenyl isocyanate.

reactant | 5-Amino-2-cyanobenzotrifluoride | 0.36 mmol, 0.07 g | NC=1C=CC(=C(C1)C(F)(F)F)C#N | C8H5F3N2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 3.5 M, 5.5 mL | C(C)(=O)OCC | C4H8O2
product | 4-cyano-3-trifluoromethylphenyl isocyanate | C(#N)C1=C(C=C(C=C1)N=C=O)C(F)(F)F | C9H3F3N2O
